US07745641B2
4-Chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (93.5 mg, 0.149 mmol) was dissolved in dimethoxyethane (4.7 mL), and the solution was added with 1.1 mmol/L diethyl zinc-toluene solution (0.68 mL, 0.744 mmol) and [bis(diphenylphosphino)ferrocene]dichloropalladium (34.4 mg, 0.030 mmol), followed by stirring at 90° C. for 12 hours under argon atmosphere. The reaction mixture was added with water and filtered using Celite. The filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, followed by drying over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/methanol=6/1) to obtain 4-chloro-5-ethyl-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (39.0 mg, yield 52%).

reactant | 4-Chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.149 mmol, 93.5 mg | ClC1=C2CNC(C2=C(C=C1OS(=O)(=O)C(F)(F)F)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H29ClF3N3O6S
reactant | diethyl zinc toluene | 0.744 mmol, 1.1 mmol/L, 0.68 mL | C(C)[Zn]CC.C1(=CC=CC=C1)C
reactant | water | O | H2O
solvent | dimethoxyethane | 4.7 mL | C(OC)COC | C4H10O2
product | 4-chloro-5-ethyl-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 39.0 mg, yield 52% | ClC1=C2CNC(C2=C(C=C1CC)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C29H34ClN3O3
